US07858646B2
Synthesis of 1-(2-hydroxy-3-propyl-4-{3-[3-(2H-tetrazol-5-yl)-phenylamino]-benzyloxy}-phenyl)-ethanone
Using the general procedure for formation of tetrazole (Et3NHCl method) of Example 1 using 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile (1.36 g, 3.39 mmol), sodium azide (662 mg, 10.2 mmol), and triethylamine hydrochloride (1.40 g, 10.2 mmol) to yield the title product as a yellow solid (313 mg, 21%): 1H NMR (DMSO-d6) δ 0.791 (t, 3H), 1.43 (sextuplet, 2H), 2.57 (m, 5H), 5.24 (s, 2H), 6.72 (d, 1H), 6.98 (d, 1H), 7.08 (d, 1H), 7.24 (m, 2H), 7.32 (t, 1H), 7.44 (m, 2H), 7.79 (m, 2H), 8.55 (s, 1H), 12.84 (s, 1H); MS (esi negative) m/z (rel intensity) 442 (100).

reactant | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile | 3.39 mmol, 1.36 g | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC=2C=C(C#N)C=CC2)C=C1)CCC)O | C25H24N2O3
reactant | sodium azide | 10.2 mmol, 662 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 10.2 mmol, 1.40 g | Cl.C(C)N(CC)CC
product | 1-(2-hydroxy-3-propyl-4-{3-[3-(2H-tetrazol-5-yl)-phenylamino]-benzyloxy}-phenyl)-ethanone | 313 mg, 21% | OC1=C(C=CC(=C1CCC)OCC1=CC(=CC=C1)NC1=CC(=CC=C1)C=1N=NNN1)C(C)=O | C25H25N5O3
